US08080552B2
i) 6-(3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-ureido)-3,3-dimethyl-2,3-dihydro-indole-1-carboxylic acid phenyl ester
278 mg (1.71 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 484 mg (1.63 mmol) 6-amino-3,3-dimethyl-2,3-dihydro-indole-1-carboxylic acid phenyl ester in 10 ml THF. A solution of 425 mg (1.63 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 10 ml THF was added within 15 min. and the mixture stirred for 12 h at r.t. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel (dichloromethane/methanol 95:5). The obtained material was washed with dichloromethane/ether, the precipitate was isolated by filtration and dried. Yield: 540 mg (57%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 1.71 mmol, 278 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-amino-3,3-dimethyl-2,3-dihydro-indole-1-carboxylic acid phenyl ester | 1.63 mmol, 484 mg | C1(=CC=CC=C1)OC(=O)N1CC(C2=CC=C(C=C12)N)(C)C | C17H18N2O2
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.63 mmol, 425 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-(3-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-ureido)-3,3-dimethyl-2,3-dihydro-indole-1-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1CC(C2=CC=C(C=C12)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO)(C)C | C31H32N6O5
